US07569578B2
(±)-1-(6-Cyanopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate
A microwave tube was charged with (±)-1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate (18 mg, 0.0296 mmol, 1.0 equiv) and Pd(PPh3)4 (ca. 4 mg) and Zn(CN)2 (14 mg, 0.12 mmol, 4 equiv). DMF (0.5 mL) was added via syringe. The vial was sealed and heated by microwave at 200° C. for 20 min. Tetrahydrofuran was removed in vacuo and the residue was partitioned between ethyl acetate and ammonium hydroxide solution. The organic layer was separated and washed with water, brine, dried and concentrated. Flash column chromatography (10% methanol/methylene chloride) afforded the desired product (15.9 mg, 97%) as a white solid. MS (ESI) [M+H]+=554. 1H-NMR (400 MHz, CDCl3) δ 8.01 (s, 1H), 7.72 (br., 1H), 7.62-7.54 (m, 1H), 7.37 (br., 1H), 7.18-6.70 (m, 6H), 6.08-5.83 (m, 1H), 4.65-3.80 (m, 6H), 3.55-3.10 (m, 2H), 3.10-2.64 (m, 2H), 2.53 (s, 3H), 1.90-1.40 (m, 4H). HPLC tR=1.90 min.

reactant | (±)-1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 0.0296 mmol, 18 mg, 1.0 equiv | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC(=CC=C1)Br | C29H28BrFN6O3
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | ca. 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 0.12 mmol, 14 mg, 4 equiv | [C-]#N.[C-]#N.[Zn+2]
product | (±)-1-(6-Cyanopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 15.9 mg, 97% | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC(=CC=C1)C#N | C30H28FN7O3
